### PR TITLE
feat: regular_comap_of_isOpenEmbedding

### LINKED ISSUE #513: Pullback of a regular Borel measure along an open embedding is a regular Borel measure
I couldn't find this, it should hopefully be straightforward. The sorry is `regular_comap_of_isOpenEmbedding` in `FLT/HaarMeasure/HaarChar/AddEquiv.lean`. There's no LaTeX proof; the informal proof is that open embeddings send opens to opens and compacts to compacts, so filling in all the structure fields should be straightforward.

### PR DESCRIPTION
**Pull request by DavidLedvinka**
null

Closes #513 and #507

### CODE REVIEW

**Comment by DavidLedvinka** [comment]
awaiting-review

**Comment by RemyDegenne** [comment]
You could factor your proof into several lemmas, one for each of the properties, which could be individually useful.
```lean
open Topology in
lemma _root_.Topology.IsOpenEmbedding.isFiniteMeasureOnCompacts_comap_measure {G H : Type*}
    [TopologicalSpace G] [MeasurableSpace G] [BorelSpace G]
    [TopologicalSpace H] [MeasurableSpace H] [BorelSpace H]
    {φ : G → H} (hφ : IsOpenEmbedding φ) (μ : Measure H) [IsFiniteMeasureOnCompacts μ] :
    IsFiniteMeasureOnCompacts (comap φ μ) where
  lt_top_of_isCompact K hK := by
    rw [MeasurableEmbedding.comap_apply hφ.measurableEmbedding]
    exact IsFiniteMeasureOnCompacts.lt_top_of_isCompact (hK.image hφ.continuous)

open Topology in
lemma _root_.Topology.IsOpenEmbedding.outerRegular_comap_measure {G H : Type*}
    [TopologicalSpace G] [MeasurableSpace G] [BorelSpace G]
    [TopologicalSpace H] [MeasurableSpace H] [BorelSpace H]
    {φ : G → H} (hφ : IsOpenEmbedding φ) (μ : Measure H) [OuterRegular μ] :
    OuterRegular (comap φ μ) where
  outerRegular A hA r hr := by
    rw [MeasurableEmbedding.comap_apply hφ.measurableEmbedding] at hr
    obtain ⟨U, hUA, Uopen, hμU⟩ :=
      OuterRegular.outerRegular (hφ.measurableEmbedding.measurableSet_image' hA) r hr
    use φ ⁻¹' U
    refine ⟨by rwa [Superset, ← Set.image_subset_iff], Uopen.preimage hφ.continuous, ?_⟩
    rw [MeasurableEmbedding.comap_apply hφ.measurableEmbedding]
    apply lt_of_le_of_lt (measure_mono (Set.image_preimage_subset _ _)) hμU

open Topology in
lemma _root_.Topology.IsOpenEmbedding.innerRegularWRT_comap_measure {G H : Type*}
    [TopologicalSpace G] [MeasurableSpace G] [BorelSpace G]
    [TopologicalSpace H] [MeasurableSpace H] [BorelSpace H]
    {φ : G → H} (hφ : IsOpenEmbedding φ) {μ : Measure H} (hμ : InnerRegularWRT μ IsCompact IsOpen) :
    InnerRegularWRT (comap φ μ) IsCompact IsOpen := by
  intro A hA r hr
  rw [MeasurableEmbedding.comap_apply hφ.measurableEmbedding] at hr
  obtain ⟨K, hKA, Kcompact, hμK⟩ := hμ (hφ.isOpen_iff_image_isOpen.mp hA) r hr
  have hK := subset_trans hKA (Set.image_subset_range _ _)
  use φ ⁻¹' K
  refine ⟨?_, hφ.isInducing.isCompact_preimage' Kcompact hK, ?_⟩
  · rw [← hφ.injective.preimage_image A]; exact Set.preimage_mono hKA
  · rwa [MeasurableEmbedding.comap_apply hφ.measurableEmbedding,
      Set.image_preimage_eq_iff.mpr hK]

open Topology in
lemma regular_comap_of_isOpenEmbedding {G H : Type*}
    [TopologicalSpace G] [MeasurableSpace G] [BorelSpace G]
    [TopologicalSpace H] [MeasurableSpace H] [BorelSpace H]
    (φ : G → H) (hφ : IsOpenEmbedding φ) (μ : Measure H) [Regular μ] :
    Regular (comap φ μ) where
  lt_top_of_isCompact := (hφ.isFiniteMeasureOnCompacts_comap_measure μ).lt_top_of_isCompact
  outerRegular := (hφ.outerRegular_comap_measure μ).outerRegular
  innerRegular := hφ.innerRegularWRT_comap_measure Regular.innerRegular
```

**Comment by kbuzzard** [comment]
Feel free to make one PR closing both issues. 

If you are fairly confident that some of the results you're contributing belong in mathlib, in, say, file Mathlib.MeasureTheory.X, then the workflow is that you create a file in this repo called FLT.Mathlib.MeasureTheory.X, you put the theorems which belong in mathlib there (and I quite agree that much of this stuff does belong in mathlib by the way), you import that new file in AddEquiv.lean, you make the PR here adding everything (the new file, the proofs of the theorems closing the FLT tasks) which I merge, and then at your leisure you can upstream stuff to mathlib if you want to help that community too; if you do that then once the mathlib PR gets merged, the FLT repo will pick up errors of the form "this declaration already exists" when we bump and it's easy to just tidy up (you don't have to do this yourself).

**Comment by kbuzzard** [comment]
FWIW you can see this process in action in #546 (the file `FLT.Mathlib.MeasureTheory.Measure.Comap` was deleted completely because all the results in it were upstreamed to mathlib)

**Comment by DavidLedvinka** [comment]
Sounds good to me! Done now.

**Review by kbuzzard — APPROVED** [review]
These look great! Your `FLT.lean` didn't have the new files in so I ran `lake exe mk_all` and pushed the updated FLT to your branch because I wanted to check that CI was happy. The measure theory proofs look fine to me, I suggested a couple of golfs because if and when you PR them to mathlib that's what they'll want to see. Can you please find the numbers 507 and 513 in the LaTeX (just search for the numbers including files `*.tex` and you should find `\discussion{507}` etc) and add `\leanok` to the *proofs* of the relevant lemmas? (just after `\begin{proof}`). Then when I merge this the blueprint will update to indicate that the lemmas are proved. Thanks!

File: FLT/Mathlib/MeasureTheory/Group/Measure.lean [hunk 1]
```diff
@@ -0,0 +1,17 @@
+import Mathlib.MeasureTheory.Group.Measure
+import FLT.Mathlib.MeasureTheory.Group.Action
+import FLT.Mathlib.MeasureTheory.Measure.Typeclasses.Finite
+import FLT.Mathlib.MeasureTheory.Measure.OpenPos
+
+open Topology MeasureTheory Measure
+
+
+@[to_additive]
+lemma isHaarMeasure_comap_of_isOpenEmbedding {G H : Type*}
```
Comment (kbuzzard) [inline FLT/Mathlib/MeasureTheory/Group/Measure.lean:10]: This is in the root namespace. I don't really know the naming conventions for measure theory but one of the reasons CI is failing is that I told the LaTeX to expect this lemma in the Measure namespace.

Comment (DavidLedvinka) [reply FLT/Mathlib/MeasureTheory/Group/Measure.lean]: This was an oversight! Although I put it in Topology.IsOpenEmbedding rather than Measure so that it could be used with dot notation.
